US07943774B2
1-(4-{4-[(2-Methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-103)
Tetrakis(triphenylphosphine)palladium(0) (25 mg), copper(I) iodide (7 mg) and triethylamine (48 mg) are added to a solution of 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-86, 150 mg) and 1-iodo-2-methoxybenzene (101 mg) in degassed N,N-dimethylformamide (1.5 ml). After 2 hours of stirring at 85° C., the reaction mixture is then diluted with water and extracted with ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. After chromatographic purification, this gives 1-(4-{4-[(2-methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (100 mg).

reactant | triethylamine | 48 mg | C(C)N(CC)CC | C6H15N
reactant | 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 150 mg | C(#C)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H17F3N4OS
reactant | 1-iodo-2-methoxybenzene | 101 mg | IC1=C(C=CC=C1)OC | C7H7IO
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 7 mg | [Cu]I
product | 1-(4-{4-[(2-Methoxyphenyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | COC1=C(C=CC=C1)C#CC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C24H23F3N4O2S
